Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1]#[C:2][C:3]([O:4][H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2].[C:3]([O:4][H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],4.87619469158
[H:1][O:2][C:3][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11].[H:4]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11],-3.73211800809
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]1\[C:9][O:10][C:11]1([H:12])[H:13].[H:8],1.72587125333
[C:1][C:2]([H:3])([H:4])[C:5]([C:6]#[C:7])[O:8][H:9]>>[C:1][C:2]([H:3])([H:4])[C:5][O:8][H:9].[C:6]#[C:7],6.9153451886
[H:1][C:2][O:3][C:4]([H:5])=[C:6][H:7].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])=[C:6]([H:7])[H:8],-5.12139342808
[H:1].[O:2]=[C:3]([H:4])[C@@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[C@:5]([H:6])([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.4821593805200002
[O:1]=[C:2]/[C:3]([H:4])=[C:5]/[C:8]([H:9])([H:10])[H:11].[O:6][H:7]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[O:6][H:7])[C:8]([H:9])([H:10])[H:11],-6.07197136094
[C:1]#[C:2][O:3][H:4].[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([O:3][H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-3.4167351402900006
[O:1]=[C:2]=[C:3]([H:4])[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5](=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2]#[C:3][H:4],4.75039786613
[H:10].[H:1][C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[H:1][C:2]#[C:3][C:4]#[C:5][O:6][C:7]([H:8])([H:9])[H:10],-4.498755624669999
[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12]>>[H:12].[H:1][C:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])=[C:10][H:11],5.14264939588
[C:1]/[C:2]([C:3](=[O:4])[H:5])=[C:6](/[H:7])[O:8][H:9]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])=[O:8].[H:9],1.87178225707
[C:11]([H:12])[H:13].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-7.300612181469999
[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.468681581599999
[O:12][H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:12][H:13],-5.99222764944
[H:1][C:2]#[C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3].[O:4]=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11],1.11257263487
[H:1][O:2][C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:4](=[C:5]([H:6])[H:7])([H:9])[H:10].[H:1][O:2][C:3]#[C:8][C:11]([H:12])[H:13],-0.264740845151
[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:5],1.60730645684
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][O:2],5.31235798017
[H:1][C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][C:3]([H:4])([H:5])/[C:6]=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13].[H:7],4.8903794063
[H:3].[O:1]=[C:2]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10],-4.06761855422
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]/[C:9]([H:10])=[C:11]/[C:12]([H:13])([H:14])[H:15].[H:8],4.81839875333
[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-5.307692748
[C:1]=[C:2]([O:3][O:4])[C:6]([H:7])=[C:8]([H:9])[H:10].[H:5]>>[C:1]=[C:2]([O:3][O:4][H:5])[C:6]([H:7])=[C:8]([H:9])[H:10],-3.91924442501
[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][H:4]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.69348597738
[O:1]=[C:2]([C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[C:12]([H:13])([H:14])[H:15],4.36998083396
[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-5.39518563826
[H:1].[O:2]=[C:3]/[C:4](=[C:5](/[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]/[C:4](=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.67519206341
